US07705025B2
5-[4-(2(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-thiophene-2-carbonitrile
The title compound is prepared in a manner substantially analogous to General Procedure D in 100 mL 10% DMF/dichloromethane using 4-(5-cyano-thiophen-2-yl)-benzoic acid (CAS 402765-55-9) (2.75 g, 12.0 mmol), EDC-HCl (3.44 g, 18.0 mmol), HOBt (2.43 g, 18.0 mmol), DIEA (5.22 mL, 30 mmol) and (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (1.54 g, 10.0 mmol) to give the title compound (2.33 g, 64% yield). MS (ES+) 366.2 (M+H)+

reactant | 4-(5-cyano-thiophen-2-yl)-benzoic acid | 12.0 mmol, 2.75 g | C(#N)C1=CC=C(S1)C1=CC=C(C(=O)O)C=C1 | C12H7NO2S
reactant | EDC-HCl | 18.0 mmol, 3.44 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 18.0 mmol, 2.43 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 30 mmol, 5.22 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 10.0 mmol, 1.54 g | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
solvent | DMF dichloromethane | 100 mL | CN(C)C=O.ClCCl
product | 5-[4-(2(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-thiophene-2-carbonitrile | 2.33 g, 64% yield | N1(CCCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(S1)C#N | C21H23N3OS
